US09388189B2
(S)-3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxy-N,N-dimethyl benzamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (70.5 mg, 0.16 mmol) was treated with 3-hydroxy-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (113 mg, 0.39 mmol, prepared from 3-bromo-5-hydroxy-N,N-dimethylbenzamide, as described at WO 2009077385 A1 20090625, and bis(pinacolate)diboron according to the method describe at Preparation 119b), sodium carbonate (40.55 mg, 0.38 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (39.2 mg, 0.05 mmol) in water (1.7 ml) and dimethoxyethane (6.5 ml) according to the method described in Example 3 to give 40.7 mg (44% yield) of the title compound. Purity 90%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.16 mmol, 70.5 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 3-hydroxy-N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | OC=1C=C(C(=O)N(C)C)C=C(C1)B1OC(C(O1)(C)C)(C)C | C15H22BNO4
reactant | 3-bromo-5-hydroxy-N,N-dimethylbenzamide | BrC=1C=C(C(=O)N(C)C)C=C(C1)O | C9H10BrNO2
reactant | sodium carbonate | 0.38 mmol, 40.55 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1.7 ml | O | H2O
solvent | dimethoxyethane | 6.5 ml | C(OC)COC | C4H10O2
product | (S)-3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-hydroxy-N,N-dimethyl benzamide | 40.7 mg, 44% yield | NC1=NC=NC(=C1C=1C=C(C(=O)N(C)C)C=C(C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H28N8O3
